US06358956B1
2-Fluoro-5-trifluoromethylbenzylisocyanate
To a methylene chloride solution of commercially available 2-fluoro-5-trifluoromethyl benzyl amine(5.23 mmol) at 0° C. was added solid Proton sponge (5.23 mmol) then a 20% solution of phosgene in toluene (5.23 mmol). The solution was stirred at 25° C. for 1 hour and then washed with 1N HCl (40 mL). The methylene chloride was then dried with sodium sulfate and evaporated to provide the title compound. 1H-NMR (CDCl3): 7.7 ppm (t, 1H); 7.60 ppm (m, 1H); 7.2 ppm (m, 1H); 4.64 ppm (s, 2H).

reactant | 2-fluoro-5-trifluoromethyl benzyl amine | 5.23 mmol | FC1=C(CN)C=C(C=C1)C(F)(F)F | C8H7F4N
reactant | Proton sponge | 5.23 mmol | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 5.23 mmol | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-trifluoromethylbenzylisocyanate | FC1=C(CN=C=O)C=C(C=C1)C(F)(F)F | C9H5F4NO
